US08709290B2
Preparation of 2,2′-(2,5-dibromobenzene-1,4-diyl)bis(3-bromo-5-trimethylsilyl-thiophene)
A oven dried 1000 cm3 three neck flask is charged with 2,2′-(2,5-dibromobenzene-1,4-diyl)bis(3-bromothiophene) (12.00 g, 21.51 mmol) and anhydrous THF (430 cm3). The reaction is cooled down to −78° C. using a acetone dry ice bath, and then a 2.0M solution (22.0 cm3, 44.1 mmol) of lithium diisopropylamide in tetrahydrofuran/heptane/ethylbenzene is added dropwise. After the addition completion, the reaction mixture is kept at 78° C. for a hour, and then chlorotrimethylsilane (6.00 cm3, 47.3 mmol) is added quickly. The reaction is allowed to reach 23° C. overnight, and then methanol (100 cm3) and water (400 cm3) is added. The mixture is extracted with diethyl ether (3×300 cm3). The combined organic phases are washed with diluted aqueous chlorhydric acid (3×250 cm3) and water (300 cm3), dried over magnesium sulfate, and then the solvent removed in vacuo. The crude product is recrystallized in propan-2-ol to obtain the title product. (11.12 g, Yield: 74%). NMR (1H, 300 MHz, CDCl3): δ 7.68 (s, 2H); 7.16 (s, 2H); 0.36 (s, 18H). NMR (13C, 75 MHz, CDCl3): δ 142.52; 139.96; 136.60; 136.39; 136.25; 123.11; 112.71, −0.16.

reactant | 2,2′-(2,5-dibromobenzene-1,4-diyl)bis(3-bromothiophene) | 21.51 mmol, 12.00 g | BrC1=C(C=C(C(=C1)C=1SC=CC1Br)Br)C=1SC=CC1Br | C14H6Br4S2
reactant | THF | 430 cm3 | C1CCOC1 | C4H8O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | chlorotrimethylsilane | 47.3 mmol, 6.00 cm3 | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran heptane ethylbenzene | O1CCCC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | water | 400 cm3 | O | H2O
solvent | methanol | 100 cm3 | CO | CH4O
product | 2,2′-(2,5-dibromobenzene-1,4-diyl)bis(3-bromo-5-trimethylsilyl-thiophene) | Yield: 74% | BrC1=C(C=C(C(=C1)C=1SC(=CC1Br)[Si](C)(C)C)Br)C=1SC(=CC1Br)[Si](C)(C)C | C20H22Br4S2Si2
